
.SUBCKT LT3845A2 Err Vfb Ifb Osc COM Out Vcc Ref

* G:\SwCADIII\lib\sym\EXTRA\UC\UC384xA\LT3845A-2.asc
I1 Vcc COM TBL(0 0 1 .2m)
D1 COM Vcc 34V
A1 Vcc COM COM COM COM COM N006 COM SCHMITT Vt=8.2 Vh=0.3 Vhigh=2.5 Rout=1k
R1 Vcc N006 8e6
C1 N006 COM 1p
S1 N011 Vcc N006 2v5 ref
D2 N011 Vcc V65
C2 2v5 COM 1p Rpar=240
R2 2v5 N011 240
R3 Ref N011 280m
C3 COM Ref 10p
C4 Osc COM 5p
A2 Osc COM COM COM COM COM N005 COM ExtOsc Vtcap=1.75 Vhcap=.85 Icharge=1p Idischarge=8.3m duty=.96 tripdt=5n nobreak
C5 Vfb COM 1p
R4 N004 Vfb 165k
C6 Err N004 1p Rpar=10G
A4 N004 2v5 COM COM COM COM Err COM OTA Vhigh=6 Vlow=0.7 Isrc=1m Isink=-6m Rclamp=1 g=5 Rout=25k Cout=5p eaclk=A2 powerup=!V(fault,Com)
C7 Ifb COM 5p
R5 N003 Ifb 75k
C8 N003 COM 1p
D3 Err N007 2R
D4 N007 COM 1R
C9 N007 COM 1p Rpar=1e6
A6 Ref COM COM COM COM fault COM COM SCHMITT Vt=4.8 Vh=.1 trise=200n
S2 Out Vcc T1 fault Ho
S3 Com Out fault T1 Lo
C10 Vcc COM 20p
C11 Out Com 20p
A5 N007 N003 COM COM COM COM N009 COM SCHMITT Vt=0.1 Vh=0.1
A7 N009 COM N008 COM N010 COM T1 COM DFLOP trise=200n tripdt=5n
A8 N008 COM COM COM N009 N010 COM COM AND
A3 N005 COM COM COM COM COM N008 COM Counter cycles=2
*.model D D
*.lib G:\SwCADIII\lib\cmp\standard.dio
.model 1R d(Vfwd=1 Ron=1)
.model 2R d(Vfwd=1.3 Ron=2e6)
.model 34V d(Ron=.5 Vfwd=.5 Vrev=34 Rrev=22)
.model ref sw(Vh=-11m Ilimit=100m)
.model Ho sw(Vt= .48 Vh=-.25 Ron=2 Roff=100k Vser=1.2)
.model Lo sw(Vt=-.52 Vh=-.25 Ron=6 Roff=300k)
.model V65 d(Vfwd=0.65)
* >> UC3845A <<\nLTspice A-Device Behavioral Model\nCopyright 2004 by analog@ieee.org
* NOTES:\nUC3842A: for A1 Vt=13  Vh=3.0 and bypass A3 (delete)\nUC3843A: for A1 Vt=8.2 Vh=0.3 and bypass A3 (delete)\nUC3844A: for A1 Vt=13  Vh=3.0; for A3 cycles=2\nUC3845A: for A1 Vt=8.2 Vh=0.3; for A3 cycles=2
.backanno

.ENDS
