* PSpice Model Editor - Version 16.0.0
*$
*PART NUMBER: NJM13600
*MANUFACTURER: NEW JAPAN RADIO 
*VCEO=80V,IF=50mA
* All Rights Reserved Copyright (C) Bee Technologies Corporation 2008
.SUBCKT NJM13600 AmpA DiA +INA -INA OUTA V- BUFINA BUFOUTA
+ BUFOUTB BUFINB V+ OUTB -INB +INB DiB AmpB      
X_U1 AmpA DiA +INA -INA OUTA V- BUFINA BUFOUTA V+  13600
X_U2 AmpB DiB +INB -INB OUTB V- BUFINB BUFOUTB V+  13600
.ENDS 
*$
*PART NUMBER: NJM13600
*MANUFACTURER: NEW JAPAN RADIO 
*Transconductance OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2008
.SUBCKT 13600 Amp Di +IN -IN OUT VSS BUFIN BUFOUT VDD
Vop        1 -IN 0.561m
I1         -IN 0 0.0677n
I2         +IN 0 .64n
D1         DI +IN D11 
D2         DI -IN D12 
D3         3 VSS D14 
D4         VDD 5 D13 
D5         VDD 6 D15 
D6         9 VSS D16 
Q1         7 +IN 2 QAA2 
Q2         4 1 2 QAA1 
Q3         2 AMP 3 QAA3 
Q4         AMP 3 VSS QAA4 
Q5         4 5 VDD Q_PVAF1 
Q6         8 4 5 Q_PVAF 
Q7         7 6 VDD Q_pVAF2   
Q8         OUT 7 6 QP_OUT 
Q9         OUT 8 9 QN_OUT    
Q10         8 9 VSS QAA5 
QB1         10 3 VSS BUF_IN 
QB2         VDD BUFIN 10 BUF1
QB3         VDD 10 BUFOUT BUF 
C1          7  OUT  4.573p  
.MODEL d11 D (IS=30E-14 N=1 RS=1m IKF=0 ISR=10E-15)
.MODEL d16 D (IS=10E-15 N=1 RS=1.0000E-3 IKF=0) 
.MODEL d15 D (IS=10.000E-15 N=1 RS=1.0000E-3 IKF=0)
.MODEL d14 D (IS=10.000E-15 N=1 RS=1.0000E-3 IKF=0)
.MODEL d13 D (IS=10.000E-15 N=1 RS=1.0000E-3 IKF=0)
.MODEL d12 D (IS=90E-15 N=1 RS=1m IKF=0 ISR=10E-15 CJO=1p)
.model Q_PVAF PNP (IS=10.000E-15 )
.model Q_PVAF1 PNP (IS=10.000E-15)
+ NE=1.5000 BR=21 NR=1 VAR=100 NC=2 NK=.5 )
.model Q_PVAF2 PNP (IS=11.440E-15 BF=100 NF=1 VAF=100 
+ NE=1.5000 BR=1 NR=1 VAR=100 NC=2 NK=.5 )
.MODEL Qaa1 NPN (IS=10.000E-15 BF=920 NF=1 VAF=100 
+ NE=1.5000 BR=21 NR=1 VAR=100 NC=2 NK=.5 )
.MODEL Qaa2 NPN (IS=10.000E-15 BF=700 NF=1 VAF=100 
+ NE=1.5000 BR=21 NR=1 VAR=100 NC=2 NK=.5 RE=0.249)
.model Qaa3 NPN (IS=10.000E-15 BF=100 NF=1 VAF=100 
+ NE=1.5000 BR=1 NR=1 VAR=100 NC=2 NK=.5 )
.model Qaa4 NPN (IS=10.000E-15 BF=100 NF=1 VAF=100 
+ NE=1.5000 BR=1 NR=1 VAR=100 NC=2 NK=.5 )
.model Qaa5 NPN (IS=11.50E-15 BF=100 NF=1 VAF=100 
+ NE=1.5000 BR=1 NR=1 VAR=100 NC=2 NK=.5 )
.MODEL QP_OUT PNP (IS=10.000E-15  BF=100  NF=1  VAF=100
+ NE=1.5 BR=.1001 VAR=100 IKR=10.010E-3 ISC=504E-12
+ NC=1.06252 NK=.56106 RB=.209 RC=0.3970 )
.MODEL QN_OUT NPN (IS=10.000E-15 BF=100 NF=1 VAF=100 
+ NE=1.5 BR=52.477 VAR=100 IKR=.40837 ISC=53.671E-12
+ NC=1.8061 NK=.22646 RB=.73666 RC=25.602e-3 )
.MODEL Buf NPN (IS=10.000E-15 BF=100 NF=1 VAF=100 
+ NE=1.5 BR=1 NR=1 VAR=10 NC=2 NK=.5 CJE=2p CJC=2p
.MODEL Buf1 NPN (IS=100.000E-12 BF=1590 NF=1 VAF=10 
+ NE=1.5 BR=1 NR=1 VAR=100 NC=2 NK=.5 CJE=2p CJC=2p
.MODEL Buf_In NPN (IS=10.0000E-15 BF=100 NF=1 VAF=100
+ NE=1.5000 BR=1 NR=1 VAR=100 NC=2 NK=.5 CJE=2p )
.ENDS
*$
